* NGSPICE file created from SMCNR_SE_2st_AMP_flat.ext - technology: sky130A

.subckt SMCNR_SE_2st_AMP_flat vdda gnda vin vip ibias vout
X0 a_4024_586# ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10.2
X1 vout a_20_494# gnda gnda sky130_fd_pr__nfet_01v8 ad=0.259 pd=3.31 as=0.259 ps=3.31 w=1.48 l=10
X2 gnda a_2100_n30# a_20_494# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X3 vdda ibias a_745_2846# vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10.2
X4 a_2100_n30# vin a_4024_586# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
X5 gnda a_2100_n30# a_4345_n10# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X6 vout ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X7 a_4024_586# vip a_20_494# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
C0 vin a_4024_586# 0.93519f
C1 vdda a_4024_586# 0.689063f
C2 vdda a_745_2846# 0.010817f
C3 vip a_4024_586# 0.37862f
C4 vdda vin 1.40862f
C5 a_4345_n10# a_2100_n30# 0.088027f
C6 vip vin 0.002455f
C7 vdda vip 1.5843f
C8 vdda vout 0.603296f
C9 vout vip 0.090546f
C10 vdda a_20_494# 0.154685f
C11 a_2100_n30# a_4024_586# 0.016632f
C12 vip a_20_494# 0.376615f
C13 vin a_2100_n30# 0.433347f
C14 vout a_20_494# 0.968451f
C15 ibias a_4024_586# 0.028861f
C16 vdda a_2100_n30# 1.22141f
C17 ibias a_745_2846# 0.038497f
C18 vip a_2100_n30# 0.114147f
C19 ibias vin 0.002235f
C20 vout a_2100_n30# 4.18e-19
C21 ibias vdda 5.77118f
C22 vdda a_4345_n10# 0.005259f
C23 ibias vip 0.05779f
C24 ibias vout 0.066258f
C25 a_2100_n30# a_20_494# 0.120446f
C26 ibias a_20_494# 0.013015f
C27 vin gnda 1.32003f
C28 vip gnda 1.21419f
C29 vout gnda 0.403453f
C30 ibias gnda 5.38861f
C31 vdda gnda 47.392498f
C32 a_4345_n10# gnda 0.065072f
C33 a_2100_n30# gnda 6.408319f
C34 a_20_494# gnda 3.52732f
C35 a_4024_586# gnda 0.429313f
.ends
